US07067540B2
To an ice-cold solution of 4-(4-fluorobenzyloxy)pyridine-2(1H)-one (3.1 g, 14 mmol) in AcOH (26 mL) was added a solution of bromine (0.79 mL, 15 mmol) in AcOH (51 mL), and the reaction mixture was stirred at room temperature for 2 h. The solvent was removed under reduced pressure, and purification by flash column chromatography (silica, 1:1 Et2O/hexanes) to afford 3-bromo-4-(4-fluorobenzyloxy)-1H-pyridin-2-one as an orange solid (0.78 g, 48%): MS APCI m/z 298 [M+H]+.

reactant | 4-(4-fluorobenzyloxy)pyridine-2(1H)-one | 14 mmol, 3.1 g | FC1=CC=C(COC2=CC(NC=C2)=O)C=C1 | C12H10FNO2
reactant | bromine | 15 mmol, 0.79 mL | BrBr | Br2
solvent | AcOH | 26 mL | CC(=O)O | C2H4O2
solvent | AcOH | 51 mL | CC(=O)O | C2H4O2
product | 3-bromo-4-(4-fluorobenzyloxy)-1H-pyridin-2-one | 0.78 g, 48% | BrC=1C(NC=CC1OCC1=CC=C(C=C1)F)=O | C12H9BrFNO2
